US06022894
EXAMPLE 17: Preparation of N-(2-Hydroxy-3-butoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 15, supra, n-butyl glycidyl ether (143 μL, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 81 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 310 (M+1, 0.01), 174 (100), 163 (19), 132(18), 121(31), 70(20); 1H-NMR (CDCl3) δ 7.03 (2H, d, J=8.6), 6.87 (2H, d, J=8.6), 3.74 (1H, m), 3.72 (3H, s), 3.40 (4H, m), 2.73 (3H, m), 2.59 (3H, m), 1.50 (2H, m), 1.30 (2H, m), 1.01 (3H, s), 0.99 (3H, s), 0.87 (3H, t, J=7.4); 13C-NMR (CDCl3) δ 157.9, 131.2, 129.9, 113.2, 73.5, 71.2, 69.0, 54.9, 53.1, 46.2, 44.5, 31.5, 26.6, 26.4, 19.1, 13.8.

reactant | n-butyl glycidyl ether | 1.0 mmol, 143 μL | C(C1CO1)OCCCC | C7H14O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-butoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 81 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCC | C18H31NO3
